US06133303
Step 2: 7-[2-(1H-1-Imidazolyl)ethoxy]-1,2,3,4-tetrahydro-4-quinolinone
Under N2, a solution of 0.8 g (5.0 mmol) of 7-hydroxy-1,2,3,4-tetrahydro-4-quinolinone in 20 mL of THF was treated with 0.62 g (5.5 mmol) of 2-(1H-1-imidazolyl)-1-ethanol and 1.13 (5.0 mmol) of tripenylphosphine. The mixture was warmed to effect solution, then allowed to cool to room temperature. This was then treated over 10 minutes with 0.8 mL (5.0 mmol) of diethyl azodicarboxylate. Some solid formed and the mixture was allowed to stir at room temperature for 3 days. The mixture was diluted with EtOAc and filtered. The filtrate was washed twice with H2O, saturated NaHCO3, then with saturated NaCl. Drying over MgSO4 and removal of the solvent under reduced pressure left the crude product. Chromatography on silica gel, eluting with CHCl3 /MeOH (90/10), gave 150 mg (11.8% yield) of the product as a golden oil. The structure was confirmed by mass spectroscopy. MS m/z 258 (M+H+).

reactant | 7-hydroxy-1,2,3,4-tetrahydro-4-quinolinone | 5.0 mmol, 0.8 g | OC1=CC=C2C(CCNC2=C1)=O | C9H9NO2
reactant | 2-(1H-1-imidazolyl)-1-ethanol | 5.5 mmol, 0.62 g | N1(C=NC=C1)CCO | C5H8N2O
reactant | tripenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 5.0 mmol, 0.8 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7-[2-(1H-1-Imidazolyl)ethoxy]-1,2,3,4-tetrahydro-4-quinolinone | 150 mg, 11.8% yield | N1(C=NC=C1)CCOC1=CC=C2C(CCNC2=C1)=O | C14H15N3O2
